US04404018
Preparation of N-Furfuryl-2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]propionamide
Furfurylamine (1 gram; 0.01 mole), methylene chloride (50 ml) and triethylamine were charged into a glass reaction vessel equipped with a thermometer, mechanical stirrer and addition funnel. The reaction mixture was cooled to a temperature of -10° C. and 2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]propionyl chloride (4.3 grams; 0.01 mole) dissolved in methylene chloride (50 ml) was added dropwise with stirring and continued cooling. After the addition was completed the reaction mixture was allowed to warm to room temperature with continued stirring over a period of one hour. After this time the reaction mixture was transferred into a separatory funnel and was washed with water (100 ml), with dilute aqueous sodium bicarbonate (100 ml; 5% conc.) and again with water (100 ml). The washed solution was dried by passing it through phase separation paper and was then stripped of solvent leaving a dark red-brown oil. This oil was subjected to chromatography using a 150 cc clay column and hexane/ethyl acetate mixtures with increasing concentrations of ethyl acetate as the eluant. Fractions 9 and 10 were combined and stripped of solvent to yield the desired product N-furfuryl-2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]propionamide as an orange solid melting at 128° to 130° C.

reactant | Furfurylamine | 0.01 mole, 1 gram | C(C1=CC=CO1)N | C5H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]propionyl chloride | 0.01 mole, 4.3 grams | [N+](=O)([O-])C1=C(OC(C(=O)Cl)C)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C16H10Cl2F3NO5
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-furfuryl-2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]propionamide | C(C1=CC=CO1)NC(C(C)OC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])=O | C21H16ClF3N2O6
